US09029405B2
Step 3: tert-butyl 2-[(4-cyano-2-fluorobenzyl)(methyl)amino]-3-methylbutanoate
Tert-butyl 2-[(4-cyano-2-fluorobenzyl)amino]-3-methylbutanoate (7.2 g, 0.023 mol) in DMF (20 mL) was added dropwise to a stirred suspension of sodium hydride (2.2 g, 0.047 mol) in dry DMF (10 mL) at 00° C. The resulting mixture was stirred for 20 min at RT. Methyl iodide (6 mL, 0.094 mol) was then added dropwise at 0° C. and the mixture was allowed to stir for 3 hr at RT. The reaction mixture was quenched in ice water and extracted with ethyl acetate (250 mL). The organic layer was washed with water (3×100 mL) and dried over Na2SO4 and concentrated under reduced pressure. The crude product was purified by column chromatography using petroleum ether and ethyl acetate as eluent, affording the title compound as colorless liquid. 1H NMR (DMSO-d6, 400 MHz) δ 7.80 (d, J=10 Hz, 1H), 7.69 (d, J=7.9 Hz, 2H), 7.60 (t, J=7.4 Hz, 1H), 3.79 (d, J=15 Hz, 1H), 3.64 (d, J=15 Hz, 1H), 2.65 (d, J=10.7 Hz, 1H), 2.18 (s, 3H), 1.44 (s, 9H), 0.92-0.83 (m, 6H).

reactant | Tert-butyl 2-[(4-cyano-2-fluorobenzyl)amino]-3-methylbutanoate | 0.023 mol, 7.2 g | C(#N)C1=CC(=C(CNC(C(=O)OC(C)(C)C)C(C)C)C=C1)F | C17H23FN2O2
reactant | sodium hydride | 0.047 mol, 2.2 g | [H-].[Na+]
reactant | Methyl iodide | 0.094 mol, 6 mL | CI | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | tert-butyl 2-[(4-cyano-2-fluorobenzyl)(methyl)amino]-3-methylbutanoate | C(#N)C1=CC(=C(CN(C(C(=O)OC(C)(C)C)C(C)C)C)C=C1)F | C18H25FN2O2
